US07632838B2
1-(3,4-dichlorophenylsulfonyl)-2,5-dimethylpiperazine (1.04 g, 3.22 mmol), 2,3-dichloropyridine (476.5 mg. 3.22 mmol), diisopropylethylamine (1.4 mL, 8.05 mmol) and DMF (1.2 mL) were charged to a microwave vial and the mixture was irradiated at 200° C. for 1 hour. Reaction was complete as determined by TLC. The reaction mixture was diluted with ethyl acetate and washed with water. After solvent evaporation crude product was purified with flash column chromatography to yield 1-(3-chloropyridin-2-yl)-4-[(3,4-dichlorophenyl)sulfonyl]-2,5-dimethylpiperazine in 2% yield (27.1 mg) as yellow solid.

reactant | 1-(3,4-dichlorophenylsulfonyl)-2,5-dimethylpiperazine | 3.22 mmol, 1.04 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(CNC(C1)C)C | C12H16Cl2N2O2S
reactant | 2,3-dichloropyridine | 3.22 mmol, 476.5 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | diisopropylethylamine | 8.05 mmol, 1.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 1.2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-chloropyridin-2-yl)-4-[(3,4-dichlorophenyl)sulfonyl]-2,5-dimethylpiperazine | 2% yield | ClC=1C(=NC=CC1)N1C(CN(C(C1)C)S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)C | C17H18Cl3N3O2S
